US09216980B2
6-(1,3,4-Oxadiazol-2-yl)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A solution of 3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbohydrazide (53.8 mg, 0.134 mmol) and trimethoxymethane (1.21 mL, 11.0 mmol) in DMF (0.81 mL) was heated at 120° C. for 24 h. The mixture was cooled, treated with trimethoxymethane (1.0 mL) and a few drops of acetic acid and heated under reflux for 48 h. The mixture was allowed to cool, treated with saturated aqueous sodium bicarbonate solution, and the resultant white precipitate collected by filtration and washed with water. The filtrate was extracted with DCM, 20% methanol in DCM, and the combined organic phases dried over sodium sulfate, combined with the isolated solid and concentrated in vacuo. The resultant residue was purified by preparative HPLC [2-60% MeCN/water modified with 0.1% ammonium hydroxide] to afford a light-yellow flaky solid (6.0 mg, 27%). 1H NMR (DMSO-D6, 400 MHz): 12.77-12.69 (s, 1H), 9.41 (s, 1H), 9.26 (d, J=2.2 Hz, 1H), 9.18 (s, 1H), 9.08 (s, 1H), 9.00 (d, J=2.2 Hz, 1H), 8.31 (s, 1H), 7.80 (d, J=8.1 Hz, 2H), 7.46 (d, J=8.1 Hz, 2H), 3.50 (s, 2H), 2.37 (m, 4H), 1.52 (m, 4H), 1.41 (m, 2H). LCMS (Method D): RT=7.69 min, M+H+=411.

reactant | 3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbohydrazide | 0.134 mmol, 53.8 mg | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)C(=O)NN)N=C1 | C23H24N6O
reactant | trimethoxymethane | 11.0 mmol, 1.21 mL | COC(OC)OC | C4H10O3
reactant | trimethoxymethane | 1.0 mL | COC(OC)OC | C4H10O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 0.81 mL | CN(C)C=O | C3H7NO
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 6-(1,3,4-Oxadiazol-2-yl)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 6.0 mg, 27% | O1C(=NN=C1)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C24H22N6O
